US07851469B2
g) 1-(4-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone
As described for Example 4, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole (100 mg, 0.34 mmol) and 4-fluoroacetophenone, instead of 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole and 4-fluorobenzotrifluoride, was converted to the title compound (70 mg, 50%) which was obtained as a white solid. MS: m/e=416.3 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | 0.34 mmol, 100 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C(F)(F)F | C13H7F4N3O
reactant | 4-fluoroacetophenone | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole | N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C13H8F3N3O
reactant | 4-fluorobenzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | 1-(4-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone | 70 mg, 50% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(C)=O)C(F)(F)F | C21H13F4N3O2
